US06153768
Synthesis of 7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methylthiochroman-4-one
To dry acetone solution (100 ml) of 7-hydroxy-3-(4-hydroxyphenyl)-3-methylthiochroman-4-one (2.30 g, 8.04 mmol) were added potassium carbonate (8.87 g, 64.3 mmol) and methoxymethyl chloride (4.64 ml, 61.5 mmol), and the mixture was heated under refluxing for 40 hours. After adding water, the reaction solution was extracted with ethyl acetate. The organic layer was washed with saturated saline, dried over anhydrous magnesium sulfate and then distilled under reduced pressure to remove the solvent. The crude product thus obtained was purified with silica gel column chromatography (ethyl acetate:hexane=1:3) to obtain 2.65 g (yield: 88%) of the title compound.

reactant | acetone | 100 ml | CC(=O)C | C3H6O
reactant | 7-hydroxy-3-(4-hydroxyphenyl)-3-methylthiochroman-4-one | 8.04 mmol, 2.30 g | OC1=CC=C2C(C(CSC2=C1)(C)C1=CC=C(C=C1)O)=O | C16H14O3S
reactant | potassium carbonate | 64.3 mmol, 8.87 g | C([O-])([O-])=O.[K+].[K+]
reactant | methoxymethyl chloride | 61.5 mmol, 4.64 ml | COCCl | C2H5ClO
solvent | water | O | H2O
product | 7-methoxymethyloxy-3-[4-(methoxymethyloxy)phenyl]-3-methylthiochroman-4-one | 2.65 g, yield: 88% | COCOC1=CC=C2C(C(CSC2=C1)(C)C1=CC=C(C=C1)OCOC)=O | C20H22O5S
